US05457118
Ethyl 3-[3-(2-aminoethyl)-5-(3-pyridylmethyl)phenyl]propanoate
A solution of ethyl 3-[3-(2-t-butoxycarbonylaminoethyl)-5(3-pyridylmethyl)phenyl]propanoate (Preparation 39; 4.10 g) and trifluoroacetic acid (.4.1 ml) in dry dichloromethane (41 ml) was stirred for 6 hours, additional 4.1 ml portions of trifluoroacetic acid being added after 2 and 5 hours. The solution was evaporated under vacuum and the residue basified with aqueous sodium bicarbonate solution. The mixture was extracted several times with dichloromethane and the combined extracts were dried (MgSO4) and evaporated under vacuum. Water (ca 75 ml) was added and this mixture was acidified to pH 4 with glacial acetic acid and then extracted several times with ethyl acetate. The aqueous layer was basified with aqueous ammonia solution (SG 0.880) and extracted several times with dichloromethane. The combined dichloromethane extracts were washed with water, dried (MgSO4) and evaporated under vacuum to give the title compound as an oil (2.24 g); Rf 0.10 (SS 2); δ (CDCl3): 1.07(2H,br), 1.20(3H,t,J=7.1 Hz), 2.56(2H,t,J=7.8 Hz), 2.66(2H,t,J=6.9 Hz), 2.85-2.93(4H,m), 3.90(2H,s), 4.09(2H,q,J=7.1 Hz), 6.84 (2H,s), 6.88(1H,s), 7.16-7.20(1H,m), 7.43(1H,d,J=7.8 Hz), 8.43-8.47(2H,m).

reactant | ethyl 3-[3-(2-t-butoxycarbonylaminoethyl)-5(3-pyridylmethyl)phenyl]propanoate | 4.10 g | C(C)(C)(C)OC(=O)NCCC=1C=C(C=C(C1)CC=1C=NC=CC1)CCC(=O)OCC | C24H32N2O4
reactant | trifluoroacetic acid | 4.1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 41 ml | ClCCl | CH2Cl2
product | Ethyl 3-[3-(2-aminoethyl)-5-(3-pyridylmethyl)phenyl]propanoate | 2.24 g | NCCC=1C=C(C=C(C1)CC=1C=NC=CC1)CCC(=O)OCC | C19H24N2O2
